US09290476B2
(1-Methyl-1H-imidazol-5-yl)(thiazol-5-yl)methanone
To a solution of 5-bromo-1-methyl-1H-imidazole (1.14 g, 7.11 mmol) in DCM was added ethyl magnesium bromide (2.34 mL, 7.11 mmol; 3.0 M in diethyl ether) dropwise over a 10 minute period. The resulting pale yellow solution was stirred at room temperature for 15 minutes, cooled in an ice bath to 0° C. and N-methoxy-N-methylthiazole-5-carboxamide (1.02 g, 5.92 mmol, Intermediate 11: step a) dissolved in DCM (3 mL) was added dropwise. The cold bath was removed and the reaction mixture stirred at room temperature for 48 hours. To the resulting yellow suspension was added water followed by 6 M aqueous HCl to a neutral pH (pH=6-7). The aqueous mixture was extracted with DCM, dried over Na2SO4, filtered and concentrated. Et2O was added and the mixture sonicated. The precipitate was collected by filtration and dried to provide the title compound as a tan solid.

reactant | 5-bromo-1-methyl-1H-imidazole | 7.11 mmol, 1.14 g | BrC1=CN=CN1C | C4H5BrN2
reactant | ethyl magnesium bromide | 7.11 mmol, 3.0 M, 2.34 mL | C(C)[Mg]Br
reactant | N-methoxy-N-methylthiazole-5-carboxamide | CON(C(=O)C1=CN=CS1)C | C6H8N2O2S
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (1-Methyl-1H-imidazol-5-yl)(thiazol-5-yl)methanone | CN1C=NC=C1C(=O)C1=CN=CS1 | C8H7N3OS
